US09289419B2
Synthesis of 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-2,4-dihydroxybutyl)pyrazolo[1,5-a]pyridine-3-carboxamide
LAH (12 mg, 0.33 mmol) was added portionwise to a solution of (S)-methyl 4-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamido)-3-hydroxybutanoate (100 mg, 0.22 mmol) in THF (2 mL) at 0-5° C. and continued stirring at the same temperature for 1 h. EtOAc was added to the above reaction mixture followed by NH4Cl solution and water. Organic layer separated was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude product, which was purified by Preparative TLC (using Silicagel GF254, 1000 u coated 20×20 cm dimension glass plate and 7% MeOH in CHCl3 as eluent) to afford 10.3 mg of the title compound.

reactant | LAH | 0.33 mmol, 12 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-methyl 4-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamido)-3-hydroxybutanoate | 0.22 mmol, 100 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC[C@H](CC(=O)OC)O | C23H24F2N4O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-2,4-dihydroxybutyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 10.3 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC[C@H](CCO)O | C22H24F2N4O3
